US07393867B2
Method 4: 4-(Phenylsulfanyl)-6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide (IIb)
Treat 6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide (50 mg, 0.30 mmol) in N,N-dimethylformamide (0.5 ml) with NaH (29 mg, 60% in oil, 0.75 mmol, 2.5 eq) at room temperature, under nitrogen for 45 minutes. Add diphenyl disulfide (92 mg, 0.4 mmol 1.4 eq) and stir the mixture at 60° C. overnight. Increase the temperature to 100° C. for 5 hours and cool to room temperature. Dilute the reaction with water and ethyl acetate* whereupon the title compound crystallizes from solution. Collect the product by filtration and dry under vacuum, to afford the title compound (28 mg). *In some cases (see tables 1 and 2, synthesis method column) where method 4 was employed, the compounds did not crystallize. In this situation, separate the ethyl acetate portion and concentrate to give a crude residue and purify the residue by flash chromatography (ISCO, silica cartridge, eluted with 10% methanol in methylene chloride (+1% 7N ammonia in methanol) to provide the desired compound.

reactant | 6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide | 0.30 mmol, 50 mg | S1C=CC2=C1NC(=C2)C(=O)N | C7H6N2OS
reactant | NaH | 0.75 mmol, 29 mg, 2.5 eq | [H-].[Na+]
reactant | diphenyl disulfide | 0.4 mmol, 92 mg, 1.4 eq | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Phenylsulfanyl)-6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide | C1(=CC=CC=C1)SC=1C2=C(NC1C(=O)N)SC=C2 | C13H10N2OS2
